US03992392
PREPARATION OF 5-CHLORO-2-METHYLINDOLE
This compound was prepared from N-chloro-4-chloroaniline and methylthioacetone following Method A, which gave 6.68 g (0.032 mol, 72%) of the sub-titled product: mp. 64°-64.5° (recr. from cyclohexane ir (KBr) 3350 cm-1 (NH); pmr (CCl4), 2.42 (1H,s,NH), 2.52 and 3.15 (1 resp. 2H,m,aromatic H), 7.72 and 7.90 (3H, s, CH3 and SCH3).

reactant | N-chloro-4-chloroaniline | ClNC1=CC=C(C=C1)Cl | C6H5Cl2N
reactant | methylthioacetone | CCC(C)=S | C4H8S
product | 5-CHLORO-2-METHYLINDOLE | 0.032 mol, 6.68 g, 72% | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
